US07902248B2
The estimated 80% pure (E)-(3-chloro-4-methanesulfonyl-phenyl)-isopropoxyimino-acetic acid and (prepared as in Example 6, 99 mg, 0.31 mmol), 5-amino-pyrazole-1-carboxylic acid tert-butyl ester (625 mg, 0.34 mmol) and N,N-diisopropylethylamine (162 μL, 0.93 mmol) were combined in acetonitrile (1.25 mL) and cooled in an ice bath. O-(7-Azabenzotriazole-1-yl)-N,N,N′N′-tetramethyluronium hexafluorophosphate (118 mg, 0.31 mmol) was added and the ice bath was removed. After stirring 2 h, the reaction mixture was evaporated in vacuo. The residue was treated with saturated aqueous sodium bicarbonate solution (1 mL) and extracted with chloroform (2×3 mL). The combined organic phases were dried over sodium sulfate and evaporated in vacuo. The residue was purified by flash column chromatography (Merck silica gel 60, 40-63 μm; 60% ethyl acetate/hexanes) to afford (E)-5-[2-(3-chloro-4-methanesulfonyl-phenyl)-2-isopropoxyimino-acetylamino]-pyrazole-1-carboxylic acid tert-butyl ester (30 mg, 20%) as a tan solid after lyophilization from aqueous acetonitrile: H1-NMR (400 MHz, CDCl3) δ=1.41 (6H, d, J=6.3 Hz), 1.72 (9H, s), 3.30 (3H, s), 4.66 (1H, m), 6.85 (1H, d, J=1.8 Hz), 7.60 (2H, m), 7.70 (1H, d, J=1.5 Hz), 8.20 (1H, d, J=8.0 Hz), 11.64 (1H, s).

reactant | (E)-(3-chloro-4-methanesulfonyl-phenyl)-isopropoxyimino-acetic acid | ClC=1C=C(C=CC1S(=O)(=O)C)\C(\C(=O)O)=N/OC(C)C | C12H14ClNO5S
reactant | 5-amino-pyrazole-1-carboxylic acid tert-butyl ester | 0.34 mmol, 625 mg | C(C)(C)(C)OC(=O)N1N=CC=C1N | C8H13N3O2
reactant | N,N-diisopropylethylamine | 0.93 mmol, 162 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 1.25 mL | C(C)#N | C2H3N
product | (E)-5-[2-(3-chloro-4-methanesulfonyl-phenyl)-2-isopropoxyimino-acetylamino]-pyrazole-1-carboxylic acid tert-butyl ester | 30 mg, 20% | C(C)(C)(C)OC(=O)N1N=CC=C1NC(/C(=N/OC(C)C)/C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C20H25ClN4O6S
